US07402698B2
A mixture of tert-butyl 4-[2-(3-bromophenyl)-2-(1-hydroxycyclohexyl)ethyl]piperazine-1-carboxylate (0.72 g, 1.55 mmol) and tetrakis(triphenylphosphine)palladium (37 mg, 0.032 mmol, 10 mol %) in 1,2-dimethoxyethane (30 mL) was stirred for 10 min at room temperature. To this mixture was added sequentially 3,4-dichlorophenyl boronic acid (0.44 g, 2.32 mmol) and a 2M aqueous solution of sodium carbonate (0.8 mL, 1.6 mmol, 5 equivalent), and the mixture was heated at reflux until all starting material was consumed and precipitation of black palladium occurred (3 h). After cooling, water was added and the reaction mixture was extracted with ethyl acetate (30 mL). The organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated to give a crude solid, which was purified via flash column chromatography (silica, gradient from 0% ethyl acetate/hexane to 30% ethyl acetate/hexane) to yield 0.55 g (67%) of tert-butyl 4-[2-(3′,4′-dichloro-biphenyl-3-yl)-2-(1-hydroxycyclohexyl)ethyl]piperazine-1-carboxylate as a foam, which was used as such in the next step.

reactant | tert-butyl 4-[2-(3-bromophenyl)-2-(1-hydroxycyclohexyl)ethyl]piperazine-1-carboxylate | 1.55 mmol, 0.72 g | BrC=1C=C(C=CC1)C(CN1CCN(CC1)C(=O)OC(C)(C)C)C1(CCCCC1)O | C23H35BrN2O3
reactant | 3,4-dichlorophenyl boronic acid | 2.32 mmol, 0.44 g | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
reactant | sodium carbonate | 1.6 mmol, 0.8 mL, 5 equivalent | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.032 mmol, 37 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-[2-(3′,4′-dichloro-biphenyl-3-yl)-2-(1-hydroxycyclohexyl)ethyl]piperazine-1-carboxylate | 0.55 g, 67% | ClC=1C=C(C=CC1Cl)C1=CC(=CC=C1)C(CN1CCN(CC1)C(=O)OC(C)(C)C)C1(CCCCC1)O | C29H38Cl2N2O3
